US04337197
(B) (S)-3-[(Phenylacetyl)amino]-1-[(phenylmethyl)oxy]-2-azetidinone
To a cold solution (0° C.) of N2 -(phenylacetyl)-N-[(phenylmethyl)oxy]-L-serinamide (6.88 g) in distilled tetrahydrofuran (300 ml), under nitrogen, is added triphenylphosphine (11.20 g) followed by diethylazodicarboxylate (6.60 ml). The solution is allowed to warm to 26° C. and stirred for twelve hours. After removal of solvent under reduced pressure the resulting residue is applied to a silica gel column (eluant ether/hexane→ether). Combination of fractions gives two batches; 1.0 g (pure) and 2.5 g (ca. 60% pure) (total yield ca. 2.2 g). The pure material is recrystallized from ethyl acetate/hexane to give solids; melting point 130°-131° C.

reactant | N2 (phenylacetyl)-N-[(phenylmethyl)oxy]-L-serinamide | 6.88 g | N#N.C1(=CC=CC=C1)CC(=O)N[C@@H](CO)C(=O)NOCC1=CC=CC=C1
reactant | triphenylphosphine | 11.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 6.60 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | (S)-3-[(Phenylacetyl)amino]-1-[(phenylmethyl)oxy]-2-azetidinone | C1(=CC=CC=C1)CC(=O)N[C@@H]1C(N(C1)OCC1=CC=CC=C1)=O | C18H18N2O3
